US05439928
1-benzyl-4-(1,3-diphenylpropyl)-1H-imidazole
2,0 g of benzylbromide in 5 ml of toluene is added dropwise to the mixture of 4-(1,3-diphenylpropyl)-1H-imidazole (2,6 g), 48% NaOH (10 ml), toluene (20 ml) and tetrabutylammoniumbromide (0,2 g) at room temperature. After addition the reaction mixture is stirred at room temperature for 3 hours. Water is added and the toluene layer is separated. The toluene phase is then washed with water and evaporated to dryness. The residue contains the isomers 1-benzyl-4-(1,3-diphenylpropyl)-1H-imidazole and 1-benzyl-5-(1,3-diphenylpropyl)-1H-imidazole and the former is separated and purified by flash chromatography (methylene chloride-methanol 9,5:0,5).

reactant | benzylbromide | 2,0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-(1,3-diphenylpropyl)-1H-imidazole | 2,6 g | C1(=CC=CC=C1)C(CCC1=CC=CC=C1)C=1N=CNC1 | C18H18N2
reactant | NaOH | 10 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammoniumbromide | 0,2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-(1,3-diphenylpropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC(=C1)C(CCC1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
